US07585885B2
(S)-2-sec-Butylamino-6-isopropanesulfonyl-isonicotinic acid methyl ester
Add 2-chloro-6-isopropanesulfonyl-isonicotinic acid methyl ester (1.26 g, 4.53 mmol), toluene (20 mL), palladium acetate (102 mg, 0.453 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (282 mg, 0.453 mmol) and cesium carbonate (2.21 g, 6.80 mmol) to a sealed vessel flushed with nitrogen. Slowly add (S)-sec-butylamine (0.68 mL, 6.80 mmol) to the mixture. Heat and stir the sealed vessel at 90° C. overnight. Cool to room temperature, concentrate and purify (silica gel chromatography, eluting with 20:80 to 70:30 ethyl acetate:hexanes) to give the title compound.

reactant | 2-chloro-6-isopropanesulfonyl-isonicotinic acid methyl ester | 4.53 mmol, 1.26 g | COC(C1=CC(=NC(=C1)S(=O)(=O)C(C)C)Cl)=O | C10H12ClNO4S
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.453 mmol, 282 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 6.80 mmol, 2.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-sec-butylamine | 6.80 mmol, 0.68 mL | [C@H](C)(CC)N | C4H11N
catalyst | palladium acetate | 0.453 mmol, 102 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | (S)-2-sec-Butylamino-6-isopropanesulfonyl-isonicotinic acid methyl ester | COC(C1=CC(=NC(=C1)S(=O)(=O)C(C)C)N[C@@H](C)CC)=O | C14H22N2O4S
